US05952382
(a) Preparation of N-benzyl-4-[7-(1-adamantyl)-6-methoxyethoxy-methoxy-2-naphthyl]benzoylpiperazine
Following the procedure of Example 27(b), but reacting 7.3 g (14.4 mmol) of 4-[7-(1-adamantyl)-6-methoxy-ethoxymethoxy-2-naphthyl]benzoic acid chloride with 2.5 ml (14.4 mmol) of 4-benzylpiperazine, 3 g (33%) of the expected compound were obtained, which compound had a melting point of 176°-7° C.

reactant | 4-[7-(1-adamantyl)-6-methoxy-ethoxymethoxy-2-naphthyl]benzoic acid chloride | 14.4 mmol, 7.3 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=C(C3=C2)OCOCC)C2=CC=C(C(=O)Cl)C=C2)OC | C31H33ClO4
reactant | 4-benzylpiperazine | 14.4 mmol, 2.5 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | N-benzyl-4-[7-(1-adamantyl)-6-methoxyethoxy-methoxy-2-naphthyl]benzoylpiperazine | 3 g, 33% | C(C1=CC=CC=C1)N1C(CNCC1)C(C1=CC=C(C=C1)C1=C(C2=CC(=C(C=C2C=C1)OCCOC)C12CC3CC(CC(C1)C3)C2)OC)=O | C42H48N2O4
